US07589206B2
g) 4-[(3-Chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid
To a suspension of methyl 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (23.1 g) in 1,4-dioxane (300 ml) was added 3-chloroaniline (27 ml). The reaction was heated at 110° C. for 17 hours during which time a solution was rapidly formed upon heating followed by the precipitation of a solid. The reaction was allowed to cool and then partitioned between dichloromethane (700 ml) and saturated sodium carbonate (500 ml). The aqueous layer was separated and further extracted with dichloromethane (300 ml). The organic extracts were combined and dried (MgSO4). This was then combined with another dichloromethane extract of a reaction conducted as above (weight of methyl 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylate is 22.9 g). The solvent was removed to yield an orange/brown solid. This was heated in methanol (650 ml) and 2N sodium hydroxide (350 ml) to 80° C. and stirred for 3 hours. The reaction was cooled and then reduced in vacuo. The residue was stirred with diethyl ether (400 ml) for 15 minutes. The orange liquid was decanted and the solid residue triturated with diethyl ether (400 ml). The solid was filtered then added to water (400 ml). The solution was altered in pH to around 7 with 5N hydrochloric acid. The precipitate was filtered, however was in the form of a sticky gum. All material was transferred into a flask with methanol (>1 L in total). The solution was reduced in vacuo. A precipitate formed after the majority of the methanol had been removed. This was filtered and dried in vacuo to yield the title compound (60.23 g).

reactant | methyl 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 23.1 g | ClC1=NC=C(C2=C1C=CN2C)C(=O)OC | C10H9ClN2O2
reactant | 3-chloroaniline | 27 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium hydroxide | 2N, 350 ml | [OH-].[Na+]
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 650 ml | CO | CH4O
product | 4-[(3-Chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 60.23 g | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)O | C15H12ClN3O2
